US07838499B2
Preparation of 4-bromo-1-chloro-2-(4-(2-(1-ethoxyethoxy)propoxy)benzyl)benzene (Intermediate CZ)
To a solution of 1-(4-(5-bromo-2-chlorobenzyl)phenoxy)propan-2-ol (857 mg, 2.4 mmol) in dichloromethane (20 mL) was added ethyl vinyl ether (1.2 mL, 12 mmol) and pyridinium p-toluenesulfonate (24 mg), and the mixture was stirred at room temperature for 2 h, whereupon starting material had been completely consumed as determined by TLC (eluent PE:EA=1:1). Solid sodium bicarbonate (5 g) was added, and the mixture was stirred for 10 min. Water (25 mL) was added, and the mixture was extracted with ethyl acetate, washed with sodium chloride, and dried over sodium sulfate. The residue was concentrated and purified by column chromatography to obtain intermediate CZ (900 mg, yield 87%) as a yellow oil. 1H NMR (CDCl3, 400 MHz): δ 7.23-7.30 (m, 3H), 7.09-7.11 (m, 2H), 6.85-6.87 (m, 2H), 4.86-4.94 (m, 1H), 4.10-4.13 (m, 1H), 4.00 (s, 2H), 3.84-3.99 (m, 1H), 3.69-3.72 (m, 1H), 3.50-3.59 (m, 1H), 1.19-1.37 (m, 9H).

reactant | 1-(4-(5-bromo-2-chlorobenzyl)phenoxy)propan-2-ol | 2.4 mmol, 857 mg | BrC=1C=CC(=C(CC2=CC=C(OCC(C)O)C=C2)C1)Cl | C16H16BrClO2
reactant | ethyl vinyl ether | 12 mmol, 1.2 mL | C(=C)OCC | C4H8O
reactant | pyridinium p-toluenesulfonate | 24 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-bromo-1-chloro-2-(4-(2-(1-ethoxyethoxy)propoxy)benzyl)benzene | yield 87% | BrC1=CC(=C(C=C1)Cl)CC1=CC=C(C=C1)OCC(C)OC(C)OCC | C20H24BrClO3
